US05869485
5-(3-Hydroxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine
1.85 g of 5-(3-benzyloxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine are hydrogenated in a hydrogen atmosphere at normal pressure and about 40° C. for 80 h in 40 ml of THF in the presence of 0.4 g of 5% palladium/carbon. After filtration through Celite and crystallization from ethanol, 5-(3-hydroxyphenyl)-7-[3-(2-(1-imidazolyl)-ethoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having a melting point of 165°-167° C. is obtained.

reactant | 5-(3-benzyloxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]-pyrimidine | 1.85 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C30H26N6O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.4 g | [Pd] | Pd
product | 5-(3-Hydroxyphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo-[2,3-d]pyrimidine | OC=1C=C(C=CC1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2 | C23H20N6O2
